US08748469B2
N-(4-(2-Hydroxyethylidene)cyclohexyl)acetamide
To a stirred suspension of sodium hydride (1.2 mmol) in THF was added triethyl phosphonoacetate (1.2 mmol) drop wise. The mixture was allowed to stir until it became colorless and a solution of N-(4-oxocyclohexyl)acetamide (1.0 mmol) in THF (1 mL) was added. The solution was allowed to stir at rt until the reaction was complete (by TLC). The solvent was removed under reduced pressure and the crude residue was filtered through a small plug of silica gel to afford the desired product, which was used directly in the next synthetic step.

reactant | sodium hydride | 1.2 mmol | [H-].[Na+]
reactant | N-(4-oxocyclohexyl)acetamide | 1.0 mmol | O=C1CCC(CC1)NC(C)=O | C8H13NO2
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(4-(2-Hydroxyethylidene)cyclohexyl)acetamide | OCC=C1CCC(CC1)NC(C)=O | C10H17NO2
